US04120690
Preparation of 2-(trimethylacetamido)-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole
A 500 ml reaction flask fitted with a magnetic stirrer, heating mantle, thermometer and water-cooled condenser was charged with 44.7 g (0.138 mole) of 4-bromo-3'-trifluoromethylacetoacetanilide, 350 ml of absolute ethanol and 15 g (0.19 mole) of pyridine. A 26 g sample (0.162 mole) of N-trimethylacetylthiourea [m.p. 140°-42°; prepared as described by Moore and Crossley in The Journal of the American Chemical Society, vol. 62, p. 3273 (1940)] was added to the reaction solution. As the substituted thiourea dissolved, the reaction temperature increased from 24° to 31°. The solution was refluxed for four hours and poured into 1.5 liters of water. With stirring, the residual oil crystallized. The product was collected and washed with water. There was obtained 46.8 g (88%) of white solid, m.p. 147°-52°. One recrystallization from ethyl acetate-heptane yielded material which melted at 153°-55°. N.M.R. (dimethyl-d6 sulfoxide) ∂ 1.3 (tert-butyl), 3.8 (CH2), 6.9 (hetero-aromatic), 7.3-8.1 (aromatic).

reactant | 4-bromo-3'-trifluoromethylacetoacetanilide | 0.138 mole, 44.7 g | BrCC(CC(=O)NC1=CC(=CC=C1)C(F)(F)F)=O | C11H9BrF3NO2
reactant | pyridine | 0.19 mole, 15 g | N1=CC=CC=C1 | C5H5N
reactant | N-trimethylacetylthiourea | 0.162 mole | CC(C(=O)NC(=S)N)(C)C | C6H12N2OS
solvent | water | 1.5 liters | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-(trimethylacetamido)-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 46.8 g, 88% | CC(C(=O)NC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O)(C)C | C17H18F3N3O2S
